US05057513
A stirred suspension of sodium hydride (20 mg) in dimethylsulfoxide (2 ml) was heated at 60° C. under nitrogen atmosphere. After one hour, 1-phenylmethyl-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide (0.20 g) and 2-pyridylmethyl chloride (0.2 ml) were added to the solution and the mixture was allowed to stand at room temperature for one hour. The mixture was diluted with ethyl acetate (20 ml) and washed with a saturated aqueous solution (20 ml) of sodium bicarbonate, water (20 ml) and brine (20 ml). The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was purified with silica gel (6 g) column chromatography (ethyl acetate) to give 1-phenylmethyl-10-(2-pyridylmethyl)-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide (0.21 g).

reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | 1-phenylmethyl-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide | 0.20 g | C1(=CC=CC=C1)CC1CCCCC12S(CCNC(C2)=O)(=O)=O | C17H23NO3S
reactant | 2-pyridylmethyl chloride | 0.2 ml | N1=C(C=CC=C1)CCl | C6H6ClN
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-phenylmethyl-10-(2-pyridylmethyl)-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide | 0.21 g | C1(=CC=CC=C1)CC1CCCCC12S(CCN(C(C2)=O)CC2=NC=CC=C2)(=O)=O | C23H28N2O3S
